US07456164B2
Intermediate 71: 1-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]methyl}-4-methylpiperazine
The title compound (428 mg, 93%) was prepared using 1-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]carbonyl}-4-methylpiperazine and lithium aluminium hydride similarly to the procedure used for example 142. HRMS ESI+ m/z 305.2220 [MH]+.

reactant | 1-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]carbonyl}-4-methylpiperazine | COC1=CC=C(C=C1)C1(CCOCC1)C(=O)N1CCN(CC1)C | C18H26N2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]methyl}-4-methylpiperazine | 428 mg, 93% | COC1=CC=C(C=C1)C1(CCOCC1)CN1CCN(CC1)C | C18H28N2O2
